US06528525B1
(b) Ethyl 3-(4-hydroxyphenyl)-2-(pyrrole-1-yl)propionate
In a similar manner to that described in Reference example 55(b), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-(pyrrole-1-yl)propionate (1.00 g) obtained in Reference example 57(a) and palladium on carbon (5%, 0.12 g) and the reaction mixture was treated to afford the title compound (0.71 g) as a syrup.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-(pyrrole-1-yl)propionate | 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)N1C=CC=C1 | C22H23NO3
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-2-(pyrrole-1-yl)propionate | 0.71 g | OC1=CC=C(C=C1)CC(C(=O)OCC)N1C=CC=C1 | C15H17NO3
